* Transient Analysis, 4E3 bandPass, 8th order Butterworth Bessel undefined, 4 stages using OP282

* Input signal for AC and Transient (step) analysis 
VIN IN 0 AC 1 DC 0 PULSE(0 4.78 0ns 1ns 1ns 1s 2s) 
* VNOISE IN 0 AC 0 DC 0 

XA IN OUTA VCCG VEEG 0 deliyannisFriendbandPassStageA
XB OUTA OUTB VCCG VEEG 0 deliyannisFriendbandPassStageB
XC OUTB OUTC VCCG VEEG 0 deliyannisFriendbandPassGainStageC
XD OUTC OUT VCCG VEEG 0 deliyannisFriendbandPassGainStageD

VP VCCG 0 15
VM VEEG 0 -15

*Simulation directive lines for Transient Analysis 
.TRAN 1ns 2.59E-3 
*.AC DEC 100 14.4E3 44.4E3 
*.NOISE V(OUT) VNOISE DEC 100 14.4E3 44.4E3 
.PROBE 

.SUBCKT deliyannisFriendbandPassStageA IN OUT VCC VEE GND 
X1 GND INM VCC VEE OUT  OP282 
R1 IN 1  41.2E3 
R2 1 GND 750 
R5 INM OUT 124E3 
C1 1 OUT 620E-12 
C2 1 INM 620E-12 
.ENDS deliyannisFriendbandPassStageA 

.SUBCKT deliyannisFriendbandPassStageB IN OUT VCC VEE GND 
X1 GND INM VCC VEE OUT  OP282 
R1 IN 1  57.6E3 
R2 1 GND 750 
R5 INM OUT 124E3 
C1 1 OUT 620E-12 
C2 1 INM 620E-12 
.ENDS deliyannisFriendbandPassStageB 

.SUBCKT deliyannisFriendbandPassGainStageC IN OUT VCC VEE GND 
X1 INP INM VCC VEE OUT  OP282 
R1 IN 1  59E3 
R2 1 GND 976 
R3 INP GND 255 
R4 OUT INP 19.1E3 
R5 INM OUT 97.6E3 
C1 1 OUT 560E-12 
C2 1 INM 560E-12 
.ENDS deliyannisFriendbandPassGainStageC 

.SUBCKT deliyannisFriendbandPassGainStageD IN OUT VCC VEE GND 
X1 INP INM VCC VEE OUT  OP282 
R1 IN 1  59E3 
R2 1 GND 976 
R3 INP GND 274 
R4 OUT INP 20.5E3 
R5 INM OUT 97.6E3 
C1 1 OUT 680E-12 
C2 1 INM 680E-12 
.ENDS deliyannisFriendbandPassGainStageD 

* OP282 SPICE Macro-model                 
* Description: Amplifier
* Generic Desc: 9/30V, JFET, OP, Low Pwr, High Slew, 2X
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (08/1991)
* Copyright 1991, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT OP282    1 2 99 50 30
*
* INPUT STAGE & POLE AT 15 MHZ
*
R1   1   3   5E11
R2   2   3   5E11
R3   5  50   3871.3
R4   6  50   3871.3
CIN  1   2   5E-12
C2   5   6   1.37E-12
I1   99  4   0.1E-3
IOS  1   2   5E-13
EOS  7   1   POLY(1)  21 24  200E-6  1
J1   5   2   4   JX
J2   6   7   4   JX
*
EREF 98  0   24  0  1
*
* GAIN STAGE & POLE AT 124 HZ
*
R5   9  98   1.16E8
C3   9  98   1.11E-11
G1   98  9   5  6  2.58E-4
V2   99  8   1.2
V3   10 50   1.2
D1   9   8   DX
D2   10  9   DX
*
* NEGATIVE ZERO AT 4 MHZ
*
R6   11 12   1E6
R7   12 98   1
C4   11 12   39.8E-15
E2   11 98   9  24  1E6
*
* POLE AT 15 MHZ
*
R8   13 98   1E6
C5   13 98   10.6E-15
G2   98 13   12  24  1E-6
*
* POLE AT 15 MHZ
*
R9   14 98   1E6
C6   14 98   10.6E-15
G3   98 14   13  24  1E-6
*
* POLE AT 15 MHZ
*
R19  19 98   1E6
C13  19 98   10.6E-15
G11  98 19   14  24  1E-6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 11 KHZ
*
R21  20 21   1E6
R22  21 98   1
C14  20 21   14.38E-12
E13  98 20   3  24  31.62
*
* POLE AT 15 MHZ
*
R23  23 98   1E6
C15  23 98   10.6E-15
G15  98 23   19 24  1E-6
*
* OUTPUT STAGE
*
R25  24 99   5E6
R26  24 50   5E6
ISY  99 50   107E-6
R27  29 99   700
R28  29 50   700
L5   29 30   1E-8
G17  27 50   23 29  1.43E-3
G18  28 50   29 23  1.43E-3
G19  29 99   99 23  1.43E-3
G20  50 29   23 50  1.43E-3
V4   25 29   2.8
V5   29 26   3.5
D3   23 25   DX
D4   26 23   DX
D5   99 27   DX
D6   99 28   DX
D7   50 27   DY
D8   50 28   DY
*
* MODELS USED
*
.MODEL JX PJF(BETA=3.34E-4  VTO=-2.000  IS=3E-12)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.ENDS





